US07790763B2
b) 3-(4-Trifluoromethyl-phenoxy)-pyrrolidine
To a solution of 0.75 mmol 3-(4-trifluoromethyl-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester in 20 ml dioxane at 0° C. was added dropwise 9.20 mmol trifluoroacetic acid, and the reaction mixture was then stirred at RT for 3 h. The reaction mixture was then concentrated in vacuo, and the residue resuspended in ethyl acetate and washed with 1 M aqueous hydrochloric acid. The aqueous phase was separated and then made basic by addition of 1 M aqueous sodium hydroxide solution and subsequently extracted with ethyl acetate. The organic phase was dried over sodium sulfate and concentrated in vacuo to afford the title compound as a white amorphous solid (yield 69%). MS (m/e): 232.1 (M+H+, 100%).

reactant | 3-(4-trifluoromethyl-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.75 mmol | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)C(F)(F)F | C16H20F3NO3
reactant | trifluoroacetic acid | 9.20 mmol | FC(C(=O)O)(F)F | C2HF3O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-(4-Trifluoromethyl-phenoxy)-pyrrolidine | FC(C1=CC=C(OC2CNCC2)C=C1)(F)F | C11H12F3NO
